US03932445
About 40 g of 5-methyl-2-phenylimidazole-4-acetic acid, 100 ml of absolute ethanol, 1 g of p-toluenesulfonic acid and 650 ml of benzene is heated under reflux with azeotropic removal of water overnight (about 15 hours). The reaction mixture is filtered, washed with sodium bicarbonate solution, dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo to yield the product, ethyl 5-methyl-2-phenylimidazole-4-acetate.

reactant | 5-methyl-2-phenylimidazole-4-acetic acid | 40 g | CC1=C(N=C(N1)C1=CC=CC=C1)CC(=O)O | C12H12N2O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 650 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | ethyl 5-methyl-2-phenylimidazole-4-acetate | CC1=C(N=C(N1)C1=CC=CC=C1)CC(=O)OCC | C14H16N2O2
